US08084469B2
3-Ethyl 1-(4-nitrophenyl) 5-(4-ethylphenyl)piperidine-1,3-dicarboxylate [racemic cis isomer]
At 0° C., 1.93 g (9.57 mmol) of 4-nitrophenyl chloroformate were added slowly to 2.5 g (9.57 mmol) of ethyl 5-(4-ethylphenyl)piperidine-3-carboxylate, the compound from Example 17A, and 1.94 g (19.1 mmol) of triethylamine in 292 ml of dichloromethane. The mixture was stirred at RT for 2 h. For workup, the reaction mixture was washed first with saturated aqueous sodium hydrogencarbonate solution, then with water. The organic phase was dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by means of preparative HPLC. Yield: 2.66 g (64% of theory)

reactant | 4-nitrophenyl chloroformate | 9.57 mmol, 1.93 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl 5-(4-ethylphenyl)piperidine-3-carboxylate | 9.57 mmol, 2.5 g | C(C)C1=CC=C(C=C1)C1CC(CNC1)C(=O)OCC | C16H23NO2
reactant | triethylamine | 19.1 mmol, 1.94 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 292 ml | ClCCl | CH2Cl2
product | 3-Ethyl 1-(4-nitrophenyl) 5-(4-ethylphenyl)piperidine-1,3-dicarboxylate | C(C)C1=CC=C(C=C1)C1CC(CN(C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C23H26N2O6
